// Instances referencing a model/subcircuit master with no instance parameters
Q1 (cc b1 e) npn
Q2 (out b2 e) npn
Balun (in o pout nout) transformer
X1 (o1 g1 g2) cell
